US08871753B2
Step B: tert-Butyl {5-[2-(3-aminophenyl)ethyl]pyridin-3-yl}carbamate
Into the reaction flask was added tert-butyl {5-[(3-aminophenyl)ethynyl]pyridin-3-yl}carbamate (0.50 g, 1.6 mmol), 50 mL of methanol and 10% palladium on carbon (100 mg, 0.094 mmol). The mixture was hydrogenated at 50 psi for 3 h. The reaction mixture was filtered to remove the catalyst and then concentrated under vacuum to give the desired product as an off-white powder (0.50 g, 99%). LCMS for C18H24N3O2 (M+H)+: m/z=314.1.

reactant | tert-butyl {5-[(3-aminophenyl)ethynyl]pyridin-3-yl}carbamate | 1.6 mmol, 0.50 g | NC=1C=C(C=CC1)C#CC=1C=C(C=NC1)NC(OC(C)(C)C)=O | C18H19N3O2
catalyst | palladium on carbon | 0.094 mmol, 100 mg | [Pd] | Pd
solvent | methanol | 50 mL | CO | CH4O
product | tert-Butyl {5-[2-(3-aminophenyl)ethyl]pyridin-3-yl}carbamate | 0.50 g, 99% | NC=1C=C(C=CC1)CCC=1C=C(C=NC1)NC(OC(C)(C)C)=O | C18H23N3O2
